US08877782B2
6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-N-(2,2,2-trifluoro-ethyl)-nicotinamide
As described for example 358 g, 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.34 mmol) was converted using 2,2,2-trifluoroethylamine instead of 4-aminotetrahydropyran to the title compound (83 mg, 65%) which was obtained as a white solid. MS: m/e=379.3 [M+H]+.

reactant | 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.34 mmol, 100 mg | N1=C(C=CC=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C15H11N3O4
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-N-(2,2,2-trifluoro-ethyl)-nicotinamide | 83 mg, 65% | N1=C(C=CC=C1)C1=NOC=C1COC1=NC=C(C(=O)NCC(F)(F)F)C=C1 | C17H13F3N4O3
